US07345068B2
2-Naphthaleneboronic acid (142 mg, 0.824 mmol), tetrakis(triphenylphosphine)palladium (80 mg, 0.069 mmol) and potassium phosphate (120 mg, 0.563 mmol) were added in turn to a solution of N-trifluoroacetyl-3-trifluoromethane-sulfonyloxy-L-phenylalanine ethyl ester (300 mg, 0.686 mmol) in degassed dimetoxyethane (2 ml). The mixture was stirred under argon atmosphere at 85° C. for 3 hrs. After being cooled to room temperature, the reaction mixture was diluted with ethyl acetate and water and then extracted with ethyl acetate. The extract was washed with water and brine in turn and dried. The solvent was distilled off under reduced pressure. The residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=9) to give N-trifluoroacetyl-3-(2-naphthyl)-L-phenylalanine ethyl ester (173 mg, 61%) as colorless crystals.

reactant | 2-Naphthaleneboronic acid | 0.824 mmol, 142 mg | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | potassium phosphate | 0.563 mmol, 120 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | N-trifluoroacetyl-3-trifluoromethane-sulfonyloxy-L-phenylalanine ethyl ester | 0.686 mmol, 300 mg | C(C)OC([C@@H](NC(C(F)(F)F)=O)CC1=CC(=CC=C1)OS(=O)(=O)C(F)(F)F)=O | C14H13F6NO6S
solvent | dimetoxyethane | 2 ml | C(OC)COC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.069 mmol, 80 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-trifluoroacetyl-3-(2-naphthyl)-L-phenylalanine ethyl ester | 173 mg, 61% | C(C)OC([C@@H](NC(C(F)(F)F)=O)CC1=CC(=CC=C1)C1=CC2=CC=CC=C2C=C1)=O | C23H20F3NO3
